US05654326
A mixture of 190 mg (0.48 mmol) of [[3-(Aminooxoacetyl)-2-ethyl-1-(phenylmethyl)-1H-indol-4-yl]amino]acetic acid methyl ester, 5 ml of 1N NaOH, and 15 ml of MeOH was refluxed 0.33 hour, cooled, and stirred at room temperature for 1 hour. EtOAc and aqueous HCl were added and the EtOAc layer was washed with brine, dried over MgSO4, and evaporated in vacuo. The residue was crystallized from MeOH to give 96 mg (53%) of [[3-(Aminooxoacetyl)-2-ethyl-1-(phenylmethyl)-1H-indol-4-yl]amino]acetic acid melting at 151°-157° C.

reactant | [[3-(Aminooxoacetyl)-2-ethyl-1-(phenylmethyl)-1H-indol-4-yl]amino]acetic acid methyl ester | 0.48 mmol, 190 mg | COC(CNC1=C2C(=C(N(C2=CC=C1)CC1=CC=CC=C1)CC)C(C(=O)N)=O)=O | C22H23N3O4
reactant | NaOH | 1N, 5 ml | [OH-].[Na+]
reactant | MeOH | 15 ml | CO | CH4O
reactant | HCl | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | [[3-(Aminooxoacetyl)-2-ethyl-1-(phenylmethyl)-1H-indol-4-yl]amino]acetic acid | 96 mg, 53% | NC(C(=O)C1=C(N(C2=CC=CC(=C12)NCC(=O)O)CC1=CC=CC=C1)CC)=O | C21H21N3O4
